US04785103
A mixture of 100 mg of 17α-acetoxy-6α,7α-epoxy-2-oxa-4-pregnene-3,20-dione, 200 mg of potassium hydrogen fluoride and 1 ml of dimethyl sulfoxide was heated at 140° C. for 20 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by TLC [developing solvent: chloroform/acetone (50/1)] to give 20 mg of 17α-acetoxy-6-fluoro-2-oxapregna-4,6-diene-3,20-dione.

reactant | 17α-acetoxy-6α,7α-epoxy-2-oxa-4-pregnene-3,20-dione | 100 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@H]4[C@@H](C5=CC(OC[C@]5(C)[C@H]3CC[C@]12C)=O)O4 | C22H28O6
reactant | potassium hydrogen fluoride | 200 mg | F.[K]
reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 17α-acetoxy-6-fluoro-2-oxapregna-4,6-diene-3,20-dione | 20 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)F | C22H27FO5
